US03957860
18.3 g of 1-amino-3-methyl-4-nitrobenzene, 120 ml of chlorobenzene, 24 g of sulphamic acid and 12 ml of 1-methylpyrrolid-2-one are warmed to 120°C whilst stirring. The reaction mixture is stirred for 8 hours at this temperature. After cooling, the reaction mixture is filtered and the residue is washed with trichloroethylene and recrystallised from 200 ml of water. The crystals which have precipitated are filtered off, suspended in 100 ml of trichloroethylene, stirred for one hour at 75°C, separated from the organic solvent by filtration and dried at 80°C. 25 g (84% of theory) of yellow crystals, which according to thin layer chromatography are a single substance, of 1-amino-3-methyl-4-nitro-benzene-6 -sulphonic acid in the form of its ammonium salt [melting point 290° C (decomposition)]are obtained.

reactant | 1-amino-3-methyl-4-nitrobenzene | 18.3 g | NC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | chlorobenzene | 120 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | sulphamic acid | 24 g | S(N)(O)(=O)=O | H3NO3S
solvent | 1-methylpyrrolid-2-one | 12 ml | CN1C(CCC1)=O | C5H9NO
product | 1-amino-3-methyl-4-nitro-benzene-6 -sulphonic acid | NC1=CC(=C(C=C1S(=O)(=O)O)[N+](=O)[O-])C | C7H8N2O5S
